US07163937B2
Preparation H6, Step 1: To a solution of dimethyl 5-tert-butylisophthalate (2.5 g, 10 mmol) in 20 mL of THF cooled to 0° C. was added dropwise a solution of lithium hydroxide monohydrate (168 mg, 7 mmol) in 5.0 mL of water. The reaction mixture was stirred at RT for 3 h. THF was removed under reduced pressure to give a yellow oil which was diluted with 10 mL of 1 N HCl. The aqueous phase was extracted with EtOAc (2×25 mL), and the extracts were combined, dried over Na2SO4, and concentrated to afford 700 mg of 3-tert-butyl-5-(methoxycarbonyl)benzoic acid. MS found: (M+H)+=237.

reactant | dimethyl 5-tert-butylisophthalate | 10 mmol, 2.5 g | C(C)(C)(C)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C14H18O4
reactant | lithium hydroxide monohydrate | 7 mmol, 168 mg | O.[OH-].[Li+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 5.0 mL | O | H2O
solvent | HCl | 1 N, 10 mL | Cl | ClH
product | 3-tert-butyl-5-(methoxycarbonyl)benzoic acid | 700 mg | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1)C(=O)OC | C13H16O4
